US06271225B1
Alternatively, in the same manner as in Example 18 and using 2-bromo-4,5,6,7-tetrahydro-N-(2-mercaptophenyl)-benzo[b]thiophene-3-carboxamide, dimethyl sulfoxide and potassium carbonate, 1,2,3,4-tetrahydro[1]benzothieno[2,3-b][1,5]benzothiazepin-12(11H)-one is obtained.

reactant | 2-bromo-4,5,6,7-tetrahydro-N-(2-mercaptophenyl)-benzo[b]thiophene-3-carboxamide | BrC1=C(C2=C(S1)CCCC2)C(=O)NC2=C(C=CC=C2)S | C15H14BrNOS2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 1,2,3,4-tetrahydro[1]benzothieno[2,3-b][1,5]benzothiazepin-12(11H)-one | C1CCCC2=C1C1=C(SC3=C(NC1=O)C=CC=C3)S2 | C15H13NOS2
